US05977131
1-(Chloro-1H-pyrrolo[2.3-b]pyridin-3-yl)-2-dimethylamino-ethanone.
The title compound was prepared from 6-chloro-1H-pyrrolo[2,3-b]pyridine (Synthesis, 992, 7, 661-663) and dimethylaminoacetyl chloride hydrochloride (Arch. Pharm. 991, 324, 433-437) in a procedure similar to Example 1. NMR (D6DMSO) δ8 12.65 (s, 1H), 8.60 (s, 1H), 7.95 (d, 1H), 7.32 (d, 1H), 3.60 (s, 2H), 2.22 (s, 3H). 13C NMR (D6DMSO) 195.6, 147.5, 144.4, 134.8, 132.7, 118.0, 116.8, 114.0, 65.9, 45,4 (2). Mass spectrum: 237,239 (P+1, P+3).

reactant | 6-chloro-1H-pyrrolo[2,3-b]pyridine | ClC1=CC=C2C(=N1)NC=C2 | C7H5ClN2
reactant | dimethylaminoacetyl chloride hydrochloride | Cl.CN(C)CC(=O)Cl
product | 1-(Chloro-1H-pyrrolo[2.3-b]pyridin-3-yl)-2-dimethylamino-ethanone | ClN1C=C(C=2C1=NC=CC2)C(CN(C)C)=O | C11H12ClN3O
